US05208247
3-Methoxy-4-(tetradecyloxy)benzoic acid methyl ester
A mixture of 28.5 g 3-methoxy-4-(hydroxy)benzoic acid methyl ester, 25.94 g of finely powdered potassium carbonate, 0.070 g potassium iodide and 285 ml of 2-butanone is heated at reflux temperature for 41 hours. The reaction is cooled and filtered. The filtrate is concentrated in vacuo and recrystallized from hexane to give 40.8 g of the desired product as white crystals.

reactant | 3-methoxy-4-(hydroxy)benzoic acid methyl ester | 28.5 g | COC(C1=CC(=C(C=C1)O)OC)=O | C9H10O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.070 g | [I-].[K+]
reactant | 2-butanone | 285 ml | CC(CC)=O | C4H8O
product | 3-Methoxy-4-(tetradecyloxy)benzoic acid methyl ester | 40.8 g | COC(C1=CC(=C(C=C1)OCCCCCCCCCCCCCC)OC)=O | C23H38O4
